US05399677
Refolding of E. coli BMP-2 in Arginine/NaCl
BMP-2 protein in 1% acetic acid or in reverse phase buffer of 0.1% TFA, 3-40% acetonitrile was dried or reduced in volume to remove acetonitrile using a speed vacuum, redissolved with four microliters of 0.01% TFA and allowed to dissolve completely for 5 to 10 minutes. The protein concentrations used were such that the final protein concentration in the folding buffer was 10 to 100 μg/ml. The folding buffer contained 100 mM buffer titrated to the appropriate pH, 5 mM EDTA, and the desired concentration of salt. Refolding of the E. coli produced BMP-2 in arginine was analyzed under reducing and non-reducing conditions using Tricine-SDS-PAGE as described above in Example 4. Substantial bands were observed at all concentrations of arginine used to refold BMP-2; however, the greatest yield of BMP-2 was obtained using 0.6 to 0.8 M arginine and from 0 to 0.25 M NaCl. Several types of salt were tested for ability to enhance BMP-2 refolding: NaCl, MgCl2, MgSO4, Na2SO4. Of these, NaCl and MgCl2 yielded optimal amounts of refolded BMP-2, and MgSO4 yielded intermediate amounts of refolded BMP-2. The optimal pH range for refolding BMP-2 in arginine is pH 9.5 to 10. Refolding also occurred at pH 8.5. Refolding BMP-2 in arginine was optimal at 4°, though some refolding was observed at room temperature (approximately 23°).

reactant | Tricine SDS | N(CC(=O)O)C(CO)(CO)CO.CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
reactant | NaCl | 0 to 0.25 M | [Na+].[Cl-]
reactant | MgCl2 | [Mg+2].[Cl-].[Cl-]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | arginine | 0.6 to 0.8 M | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
product | Arginine NaCl | N[C@@H](CCCNC(N)=N)C(=O)O.[Na+].[Cl-] | InChI=1S/C6H14N4O2.ClH.Na/c7-4(5(11)12)2-1-3-10-6(8)9;;/h4H,1-3,7H2,(H,11,12)(H4,8,9,10);1H;/q;;+1/p-1/t4-;;/m0../s1
